US06410566B1
2-carbamoyl-1-(4-chlorobenzyl)pyrrolidine was dissolved in 1M BH3-THF (9.4 mL) and heated to 70° C. After 16 h and 25 h, additional 0.5 equiv. of 1M BH3-THF were added. After 40 h, 1 N aqueous HCl solution (14 mL) was added and the reaction was heated to reflux for 3 h, 3 N aqueous HCl solution (6 mL) was added and the reaction was heated for an additional 3 h. The reaction mixture was cooled to 25° C., basicified with 4 N aqueous NaOH solution and extracted with CH2Cl2 (4×15 mL). Chromatography (SiO:, 8:1:1 −PrOH—H O—NH4OH) afforded 2-(aminomethyl)-1-(4-chlorobenzyl)pyrrolidine (1.21 g, 86%).

reactant | 2-carbamoyl-1-(4-chlorobenzyl)pyrrolidine | C(N)(=O)C1N(CCC1)CC1=CC=C(C=C1)Cl | C12H15ClN2O
reactant | HCl | 1 N, 14 mL | Cl | ClH
reactant | HCl | 3 N, 6 mL | Cl | ClH
reactant | NaOH | 4 N | [OH-].[Na+]
solvent | BH3-THF | 1M, 9.4 mL | B.C1CCOC1
solvent | BH3-THF | 1M, 0.5 equiv. | B.C1CCOC1
product | 2-(aminomethyl)-1-(4-chlorobenzyl)pyrrolidine | 1.21 g, 86% | NCC1N(CCC1)CC1=CC=C(C=C1)Cl | C12H17ClN2
